US09126970B2
Step a): (3-Bromo-9H-fluoren-2-yl)diphenylamine
8.0 g (42.2 mmol) of copper(I) iodide and 11.7 ml (97.5 mmol) of trans-cyclohexanediamine are added to a vigorously stirred suspension of 47.7 g (234 mmol) of iodobenzene, 26 g (100 mmol) of 3-bromo-9H-fluoren-2-ylamine and 416.4 g (1961 mmol) of potassium phosphate in 1170 ml of dioxane, and the mixture is heated under reflux for 16 h. After cooling, the precipitated solid is filtered off with suction, washed three times with 50 ml of toluene, three times with 50 ml of ethanol:water (1:1, v:v) and three times with 100 ml of ethanol. Yield: 33 g (80 mmol), 80%.

reactant | iodobenzene | 234 mmol, 47.7 g | IC1=CC=CC=C1 | C6H5I
reactant | 3-bromo-9H-fluoren-2-ylamine | 100 mmol, 26 g | BrC=1C(=CC=2CC3=CC=CC=C3C2C1)N | C13H10BrN
reactant | potassium phosphate | 1961 mmol, 416.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1170 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 42.2 mmol, 8.0 g | [Cu]I
product | (3-Bromo-9H-fluoren-2-yl)diphenylamine | BrC=1C(=CC=2CC3=CC=CC=C3C2C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C25H18BrN
